US09382237B2
Dissolved 2-(((3-chlorophenyl)amino)(methylthio)methylene)malononitrile in EtOH (100 mL) and added and hydrazine hydrate (1 eq., 2.44 mL), then heated to reflux until complete by TLC (absence of starting material, 18 hrs). Poured into ice water and filtered to obtain 5-amino-3-((3-chlorophenyl)amino)-1H-pyrazole-4-carbonitrile as yellow powder.

reactant | 2-(((3-chlorophenyl)amino)(methylthio)methylene)malononitrile | ClC=1C=C(C=CC1)NC(SC)=C(C#N)C#N | C11H8ClN3S
reactant | hydrazine hydrate | 2.44 mL, 1 eq. | O.NN
solvent | EtOH | 100 mL | CCO | C2H6O
product | 5-amino-3-((3-chlorophenyl)amino)-1H-pyrazole-4-carbonitrile | NC1=C(C(=NN1)NC1=CC(=CC=C1)Cl)C#N | C10H8ClN5
